US08497278B2
1-(6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-pyrrolidin-2-one (116)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and pyrrolidin-2-one. m/e+ 374 for C19H18Cl2N3O [M+H]+; 1H-NMR (300 MHz, CDCl3) δ 8.49 (d, J=1.5 Hz, 1H), 7.63 (d, J=8.1 Hz, 2H), 7.33 (m, 3H), 4.93 (s, 2H), 3.11 (t, J=6.9 Hz, 2H), 2.43 (m, 5H), 1.92 (m, 2H) ppm.

reactant | 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CCl)Cl
reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
product | 1-(6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-pyrrolidin-2-one | ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CN2C(CCC2)=O)Cl | C19H17Cl2N3O
